US04433150
A solution of 15.6 g of 2-phenyl-4-[2-(4-piperidyl)ethyl] quinoline, prepared as indicated in Example 16, in 200 ml of chloroform is treated with stirring with 200 ml of a 1 N aqueous solution of sodium hydroxide. Then 21.7 g of ethyl chloroformate are added, drop by drop, and the suspension obtained is stirred for 17 hours at the ambient temperature. After separation, the organic phase is washed with water, dried over magnesium sulphate, then evaporated under reduced pressure. 20 g of 4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-2-phenyl-quinoline in the form of an oil are obtained.

reactant | 2-phenyl-4-[2-(4-piperidyl)ethyl] quinoline | 15.6 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC1CCNCC1 | C22H24N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl chloroformate | 21.7 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(1-ethoxycarbonyl-4-piperidyl)-ethyl]-2-phenyl-quinoline | 20 g | C(C)OC(=O)N1CCC(CC1)CCC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C25H28N2O2
